US07666878B2
1M Aqueous NaOH (1 ml) is added to a stirring solution of [1-(4-ethanesulfonyl-benzyl)-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl]-acetic acid methyl ester (89 mg, 0.23 mmol) in 1:1 THF/MeOH (4 ml). After 1 hour the reaction is evaporated and the resulting oil is dissolved in water (8 ml) and acidified to pH 3. The resulting precipitate is collected by filtration and dried in vacuo to afford [1-(4-ethanesulfonyl-benzyl)-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl]-acetic acid (MH+ 373)

reactant | NaOH | 1M, 1 ml | [OH-].[Na+]
reactant | [1-(4-ethanesulfonyl-benzyl)-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl]-acetic acid methyl ester | 0.23 mmol, 89 mg | COC(CC1=C(N(C2=NC=CC=C21)CC2=CC=C(C=C2)S(=O)(=O)CC)C)=O | C20H22N2O4S
solvent | THF MeOH | 4 ml | C1CCOC1.CO
product | [1-(4-ethanesulfonyl-benzyl)-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl]-acetic acid | C(C)S(=O)(=O)C1=CC=C(CN2C(=C(C=3C2=NC=CC3)CC(=O)O)C)C=C1 | C19H20N2O4S
